US07884104B2
6-Chloro-3-methyl[1,2,4]triazolo[4,3-b]pyridazine
To a stirred solution of 1.0 g (6.7 mmol) of 3,6-dichloropyridazine in 5 mL of butanol was added 500 mg (6.7 mmol) of acetic hydrazide and the resulting solution was stirred under nitrogen at reflux for 24 h. The reaction mixture was then cooled to ambient temperature, filtered, and the resulting precipitate washed with ethyl acetate and methanol. The combined filtrate and washings were concentrated and dissolved in 250 mL of 10:1 chloroform/methanol then washed with saturated aqueous brine (2×100 mL). The organic phase was then dried over magnesium sulfate, filtered, and evaporated in vacuo to yield a yellow solid. The crude material was purified by flash chromatography on a Biotage Horizon® system (silica gel, 0 to 80% ethyl acetate/hexanes gradient) to give the title compound as a brown crystalline solid. LC/MS 169.0 (M+1).

reactant | 3,6-dichloropyridazine | 6.7 mmol, 1.0 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | acetic hydrazide | 6.7 mmol, 500 mg | C(C)(=O)NN | C2H6N2O
solvent | butanol | 5 mL | C(CCC)O | C4H10O
product | 6-Chloro-3-methyl[1,2,4]triazolo[4,3-b]pyridazine | ClC=1C=CC=2N(N1)C(=NN2)C | C6H5ClN4
